US07319099B2
(b) 1,2,4-Trifluoro-5-methanesulfonyl-benzene
To 2,4,5-trifluoro-benzenesulfinic acid (2.0 g) in DMF (17 mL) was added 4.3 g of potassium carbonate, and the reaction mixture was stirred for 5 minutes before methyl iodide (2.2 mL) was added. The reaction mixture was then stirred at room temperature for 60 hours. After such time, water (30 mL) was poured onto the reaction mixture, and the reaction mixture was extracted with diethylether several times. The combined organic phases were dried with sodium sulfate, and the remaining mixture was distilled to yield the title compound as a light yellow oil (2.1 g).

reactant | 2,4,5-trifluoro-benzenesulfinic acid | 2.0 g | FC1=C(C=C(C(=C1)F)F)S(=O)O | C6H3F3O2S
reactant | potassium carbonate | 4.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 2.2 mL | CI | CH3I
reactant | water | 30 mL | O | H2O
solvent | DMF | 17 mL | CN(C)C=O | C3H7NO
product | 1,2,4-Trifluoro-5-methanesulfonyl-benzene | 2.1 g | FC1=C(C=C(C(=C1)S(=O)(=O)C)F)F | C7H5F3O2S
